US03984467
1-(3-Nitrophenyl)-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 2.3 g. sodium in 150 ml. dry acetone, 13.6 g. valeramidine hydrochloride, and 16.4 g. 3-nitrophenyl isocyanate in 300 ml. benzene, there was obtained after recrystallization from ethyl alcohol-ether 11.6 g. of the hydrochloride of 1-(3-nitrophenyl)-3-(pentanimidoyl)urea; m.p. 161°-163°C.

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 3-nitrophenyl isocyanate | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-Nitrophenyl)-3-(pentanimidoyl)urea | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)NC(CCCC)=N | C12H16N4O3
